US06806230B1
1.0 g (4.6 mmol) of 4-trifluoromethyl-5-[1-amino-2-methylpropyl]pyrimidine, 0.23 g (6.9 mmol)of paraformaldehyde and 0.1 g (9.9 mmol) of triethylamine were dissolved in 50 ml of toluene. Heating and refluxing were carried out for 1 hour while removing water from the reaction system by means of Dean's Stark. The reaction solution was returned to room temperature, and 0.86 g (4.6 mmol) of 4-chlorophenylacetylchloride was dropwise added, followed by stirring for further 2 hours. To this solution, 10 ml of a toluene solution containing 0.2 g (6.2 mmol) of methanol and 0.5 g (4.9 mmol) of triethylamine, was dropwise added, followed by stirring at room temperature for 1 hour. To the reaction solution, 100 mg of water was added, followed by extraction with ethyl acetate. The obtained organic layer was washed with water and then dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure, and the obtained crude product was purified by silica gel column chromatography (developing solvent/n-hexane:ethyl acetate=3:1) to obtain 0.5 g (yield: 26%) of N-methoxymethyl-N-[2-methyl-1-(4-trifluoromethylpyrimidin-5-yl)propyl]-4-chlorophenylacetamide as colorless transparent crystals (melting point: 142-145° C.).

reactant | 4-trifluoromethyl-5-[1-amino-2-methylpropyl]pyrimidine | 4.6 mmol, 1.0 g | FC(C1=NC=NC=C1C(C(C)C)N)(F)F | C9H12F3N3
reactant | paraformaldehyde | 6.9 mmol, 0.23 g | C=O | CH2O
reactant | triethylamine | 9.9 mmol, 0.1 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenylacetylchloride | 4.6 mmol, 0.86 g | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | methanol | 6.2 mmol, 0.2 g | CO | CH4O
reactant | triethylamine | 4.9 mmol, 0.5 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mg | O | H2O
product | N-methoxymethyl-N-[2-methyl-1-(4-trifluoromethylpyrimidin-5-yl)propyl]-4-chlorophenylacetamide | 0.5 g, yield: 26% | COCN(C(CC1=CC=C(C=C1)Cl)=O)C(C(C)C)C=1C(=NC=NC1)C(F)(F)F | C19H21ClF3N3O2
